US05948819
Synthesis of 2-acetoxy-2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-N-methylacetamide (Compound No. 144)
A solution of 2-[2-(2,5-dimethylphenoxymethyl)-phenyl]-2-hydroxy-N-methylacetamide (0.57 g, 1.9 mmol) and acetic anhydride (0.43 g, 4.2 mmol) in pyridine (3 ml) was stirred at room temperature for 8 hours, and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=1/1) to give the desired compound 2-acetoxy-2-[2-(2,5-dimethylphenoxymethyl)phenyl]-N-methylacetamide (0.53 g, 82%) as colorless crystals.

reactant | 2-[2-(2,5-dimethylphenoxymethyl)-phenyl]-2-hydroxy-N-methylacetamide | 1.9 mmol, 0.57 g | CC1=C(OCC2=C(C=CC=C2)C(C(=O)NC)O)C=C(C=C1)C | C18H21NO3
reactant | acetic anhydride | 4.2 mmol, 0.43 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 2-acetoxy-2-[2-(2,5-dimethylphenoxymethyl)phenyl]-N-methylacetamide | 0.53 g, 82% | C(C)(=O)OC(C(=O)NC)C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C | C20H23NO4
